US08247436B2
Step 2: 3,3,3-trifluoro-2-(4-methoxybenzylamino)-2-methyl propanenitrile
To a cooled (0° C.) solution of 1-(4-methoxyphenyl)-N-(1,1,1-trifluoropropan-2-ylidene)methanamine (4.41 g, 19.07 mmol) in DCM (100 ml) was added cyanotrimethylsilane (2.84 g, 28.6 mmol) and magnesium bromide. The mixture was stirred at RT for 90 h and then diluted with sat. NaHCO3 (200 ml). After stirring at RT for 1 h, the organic phase was separated, washed with a further portion of sat. NaHCO3 (100 ml), dried over MgSO4 and concentrated in vacuo to afford the title compound.

reactant | 1-(4-methoxyphenyl)-N-(1,1,1-trifluoropropan-2-ylidene)methanamine | 19.07 mmol, 4.41 g | COC1=CC=C(C=C1)CN=C(C(F)(F)F)C | C11H12F3NO
reactant | cyanotrimethylsilane | 28.6 mmol, 2.84 g | C(#N)[Si](C)(C)C | C4H9NSi
reactant | magnesium bromide | [Br-].[Mg+2].[Br-]
reactant | NaHCO3 | 200 ml | C(=O)(O)[O-].[Na+]
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 3,3,3-trifluoro-2-(4-methoxybenzylamino)-2-methyl propanenitrile | FC(C(C#N)(C)NCC1=CC=C(C=C1)OC)(F)F | C12H13F3N2O
